US04460580
The 5-(2-aminoethoxy)-salicylamide with a melting point of 140°, which is required as a starting material, is obtained analogously to Example 21 by catalytic debenzylation of 5-(2-benzylaminoethoxy)-salicylamide by means of 5% palladium-on-charcoal catalyst in methanol.

reactant | 5-(2-aminoethoxy)-salicylamide | NCCOC1=CC=C(C(C(=O)N)=C1)O | C9H12N2O3
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 5-(2-benzylaminoethoxy)-salicylamide | C(C1=CC=CC=C1)NCCOC1=CC=C(C(C(=O)N)=C1)O | C16H18N2O3
